US04751223
4-Bromobenzo[b]pyrrolo[3,2,1-jk][1,4]benzodiazepine
A solution of 2,3-dichloro-5,6-dicyano-1,4-benzoquinone (DDQ, 22 g) in toluene (200 ml) was added dropwise to a refluxing solution of 4-bromo-1,2-dihydrobenzo[b]pyrrolo[3,2,1-jk][1,4]benzodiazepine (10 g) in toluene (750 ml) under nitrogen. The mixture was refluxed for 1 hour, cooled, stirred with triethylamine (3 g) for 10 minutes, and fed to a flash chromatography column (slurry packed with silica, 300 g in dichloromethane). The column was eluted with dichloromethane (4 liter); 1% methanol/dichloromethane (2 liter); 1% methanol/0.5% ammonium hydroxide/dichloromethane (2 liter), until the desired product was separated from the remaining quinone. The crude product (10 g) was purified carefully on a second flash chromatography column (silica gel, 180 g; eluted with 20:80% hexane/dichloromethane, 6 liter). The desired product was isolated as a solid (5.4 g). Recrystallization from ethanol (70 ml) gave crystals which turned to powder after vacuum drying at 110° C. The yield was 3.2 g, m.p. 122°-123° C.

reactant | 2,3-dichloro-5,6-dicyano-1,4-benzoquinone | 22 g | ClC=1C(C(=C(C(C1Cl)=O)C#N)C#N)=O | C8Cl2N2O2
reactant | 4-bromo-1,2-dihydrobenzo[b]pyrrolo[3,2,1-jk][1,4]benzodiazepine | 10 g | BrC=1C=C2C3=C(C=NC4=C(N3CC2)C=CC=C4)C1 | C15H11BrN2
reactant | triethylamine | 3 g | C(C)N(CC)CC | C6H15N
solvent | toluene | 200 ml | C1(=CC=CC=C1)C | C7H8
solvent | toluene | 750 ml | C1(=CC=CC=C1)C | C7H8
solvent | dichloromethane | ClCCl | CH2Cl2
product | 4-Bromobenzo[b]pyrrolo[3,2,1-jk][1,4]benzodiazepine | BrC=1C=C2C3=C(C=NC4=C(N3C=C2)C=CC=C4)C1 | C15H9BrN2
